US05332731
(a) Tetrahydrofuran-3-yl Trifluoromethanesulfonate
3-Hydroxytetrahydrofuran (441 mg) and pyridine (0.49 ml) were dissolved in dichloromethane (4 ml) and the resulting solution was cooled to -50° C. Trifluoromethanesulfonic acid anhydride (1 ml) was added dropwise to the cooled solution, and the resulting reaction solution was slowly heated up to 0° C. The reaction solution was washed with cold water and dried over anhydrous magnesium sulfate, after which the solvent was distilled off to leave the titled compound (830 mg; 75%) as pale brown oil.

reactant | 3-Hydroxytetrahydrofuran | 441 mg | OC1COCC1 | C4H8O2
reactant | pyridine | 0.49 ml | N1=CC=CC=C1 | C5H5N
reactant | Trifluoromethanesulfonic acid anhydride | 1 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | Tetrahydrofuran-3-yl Trifluoromethanesulfonate | 830 mg, 75% | FC(S(=O)(=O)OC1COCC1)(F)F | C5H7F3O4S
